US08957064B2
isopropyl-(6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine
253.8 mg (0.93 mmol) 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 7.2 mL NMP. 0.26 mL (1.85 mmol) triethylamine are added and the reaction mixture is stirred for one hour. 300 mg (0.84 mmol) 4-(5-Isopropylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde and 0.12 mL (2.02 mmol) acetic acid are added. The reaction mixture is stirred for 24 hours at room temperature. 463.8 mg (2.2 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature over night. After the usual work-up and purification by column chromatography (silicagel, eluents: dichloromethane/methanol) 132 mg (27.5%) of the pure title compound and 42 mg (9.2%) of the slightly contaminated title compound are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 0.93 mmol, 253.8 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | triethylamine | 1.85 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(5-Isopropylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 0.84 mmol, 300 mg | C(C)(C)NC1=C(C(=NC=2N1C=CN2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C22H20N4O
reactant | acetic acid | 2.02 mmol, 0.12 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 2.2 mmol, 463.8 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | NMP | 7.2 mL | CN1CCCC1=O | C5H9NO
product | isopropyl-(6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine | C(C)(C)NC1=C(C(=NC=2N1C=CN2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2 | C32H31N9
